US05232923
Ethyl 3,4-diacetoxyphenylpropionate and di-n-hexylamine were used to obtain N,N-Di-n-hexyl-3,4-dihydroxyphenylpropionamide by carrying out the same procedures as described in Example 1, as an oily product.

reactant | Ethyl 3,4-diacetoxyphenylpropionate | C(C)(=O)OC=1C=C(C=CC1OC(C)=O)C(C(=O)OCC)C | C15H18O6
reactant | di-n-hexylamine | C(CCCCC)NCCCCCC | C12H27N
product | N,N-Di-n-hexyl-3,4-dihydroxyphenylpropionamide | C(CCCCC)N(C(C(C)C1=CC(=C(C=C1)O)O)=O)CCCCCC | C21H35NO3
